US04826869
1-Methyl-2-(3'-ureidobenzyl)pyrrole
50% Sodium hydride 2.15 g (89 mmol) was suspended, under nitrogen atmosphere, in 100 ml of anhydrous dimethylformamide. A solution of 10 g (46 mmol) of 2-(3'-nitrobenzoyl)pyrrole in 50 ml of anhydrous dimethylformamide was added thereto, and the resulting mixture stirred for 1 hour, cooled to 0° C. and then treated dropwise with a solution of 8.6 ml (130 mmol) of methyl iodide in 30 ml of dry dimethylformamide. The reaction mixture was stirred for an additional hour at 0° C. and thereafter poured into 500 ml of ethyl acetate, the extract was washed with water (5×250 ml), dried and evaporated in vacuo. The residue was crystallized from methylene chloride-hexane, to produce 9.6 g (90%) of the title compound, 1-methyl-2-(3'-nitrobenzoyl)pyrrole. M.P. 115°-117° C. (methylene chloride-methanol)

reactant | Sodium hydride | 89 mmol, 2.15 g | [H-].[Na+]
reactant | 2-(3'-nitrobenzoyl)pyrrole | 46 mmol, 10 g | [N+](=O)([O-])C=1C=C(C(=O)C=2NC=CC2)C=CC1 | C11H8N2O3
reactant | methyl iodide | 130 mmol, 8.6 ml | CI | CH3I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-2-(3'-ureidobenzyl)pyrrole | 9.6 g, 90% | CN1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C13H15N3O
